US05747535
Synthesis of (S)-4-[2-(butyloxycarbonyl-amino)-3-(4-methylsulfonyl-piperazinyl)-3-oxo-propyl]-benzonitrile
(S)-3-(4-cyanophenyl)-2-(butyloxycarbonylamino)propionic acid(0.5 g, 1.7 mmole) was dissolved in dimethylformamide(DMF, 20 ml) and then cooled to 0° C. Then, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride(EDC, 0.5 g) and 1-hydroxybenzotriazole hydrate(HOBT,0.3 g) were added to this solution and stirred until they are completely dissolved therein. To this reaction mixture were added 1-methanesulfonyl-piperazine(0.3 g) and N-methylmorpholine(0.2 ml), and then the temperature was slowly elevated to room temperature. The reaction solution was stirred for 3.5 hours. After the reaction is completed, the reaction solution was distilled under reduced pressure to remove the volatile substance and the remaining solution was diluted with ethyl acetate, washed successively with aqueous saturated sodium hydrogen carbonate solution, dilute hydrochloric acid and saturated saline, dried over anhydrous sodium sulfate, filtered and then concentrated. The residue was purified with column chromatography using ethyl acetate/hexane(6/4, by volume) as an eluent to obtain the purified title compound(0.7 g, Yield: 93%).

reactant | (S)-3-(4-cyanophenyl)-2-(butyloxycarbonylamino)propionic acid | 1.7 mmole, 0.5 g | C(#N)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OCCCC | C15H18N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.5 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.3 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-methanesulfonyl-piperazine | 0.3 g | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | N-methylmorpholine | 0.2 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-4-[2-(butyloxycarbonyl-amino)-3-(4-methylsulfonyl-piperazinyl)-3-oxo-propyl]-benzonitrile | 0.7 g, Yield: 93% | C(CCC)OC(=O)N[C@@H](CC1=CC=C(C#N)C=C1)C(=O)N1CCN(CC1)S(=O)(=O)C | C20H28N4O5S
